US07982036B2
To a stirred solution of N2-(6-(2,3-dihydrobenzo[b][1,4]dioxin-6-yloxy)pyrimidin-4-yl)pyridine-2,6-diamine (0.080 g, 0.23 mmol) and potassium carbonate (0.065 g, 0.47 mmol) in NMP (0.8 mL) at 0° C. was added acryloyl chloride (0.026 g, 0.29 mmol) and the reaction mixture was stirred at 0° C. for 30 min. The reaction mixture was added dropwise to a cold, stirring solution of 10% NaHCO3 and was stirred at 0° C. for 30 min. A white solid was isolated by filtration. The solid was washed with cold water and hexane and dissolved in a 2 mL of methanol/dichloromethane (1/1). This solution was concentrated under reduced pressure. The residue obtained was suspended in cold water (5 mL), Et3N was added to it and it was extracted with ethyl acetate (2×5 mL). The combined ethyl acetate extract was washed with water (2 mL) and brine (2 mL), was dried over Na2SO4 and was concentrated under reduced pressure to obtain N-(6-(6-(2,3-dihydrobenzo[b][1,4]dioxin-6-yloxy) pyrimidin-4-ylamino)pyridin-2-yl)acrylamide (I-95) as a light yellow solid. 1H NMR (DMSO-d6) δ ppm: 4.25 (s, 4H), 5.79 (dd, J=1.84 & 10.08 Hz, 1H), 6.30 (dd, J=1.84 & 16.96 Hz, 1H), 6.62-6.72 (m, 3H), 6.88 (d, J=8.72 Hz, 1H), 7.03 (d, J=7.84 Hz, 1H), 7.69 (t, J=7.96 Hz, 1H), 7.70 (d, J=7.84 Hz, 1H), 7.85 (s, 1H), 8.32 (d, J=0.4 Hz, 1H), 10.16 (s, 1H), 10.47 (s, 1H); LCMS: m/e 392.

reactant | N2-(6-(2,3-dihydrobenzo[b][1,4]dioxin-6-yloxy)pyrimidin-4-yl)pyridine-2,6-diamine | 0.23 mmol, 0.080 g | O1C2=C(OCC1)C=C(C=C2)OC2=CC(=NC=N2)NC2=NC(=CC=C2)N | C17H15N5O3
reactant | potassium carbonate | 0.47 mmol, 0.065 g | C([O-])([O-])=O.[K+].[K+]
reactant | acryloyl chloride | 0.29 mmol, 0.026 g | C(C=C)(=O)Cl | C3H3ClO
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | NMP | 0.8 mL | CN1CCCC1=O | C5H9NO
solvent | water | 5 mL | O | H2O
solvent | Et3N | CCN(CC)CC | C6H15N
product | N-(6-(6-(2,3-dihydrobenzo[b][1,4]dioxin-6-yloxy) pyrimidin-4-ylamino)pyridin-2-yl)acrylamide | O1C2=C(OCC1)C=C(C=C2)OC2=CC(=NC=N2)NC2=CC=CC(=N2)NC(C=C)=O | C20H17N5O4
